US05049674
Preparation of 4-cyclopropylmethoxy-2-hydroxymethylpyridine
To the crude 2-acetoxymethyl-4-cyclopropylmethoxy pyridine, NaOH (100 ml 2 M) was added and the mixture was refluxed for 2 hours. The mixture was extracted with methylene chloride, and the phases were separated. The organic layer was dried with Na2SO4, filtered and the solvent was evaporated off, yielding 2.7 g of crude title compound. NMR data is given below. The crude product was used without any further purification.

reactant | 2-acetoxymethyl-4-cyclopropylmethoxy pyridine | C(C)(=O)OCC1=NC=CC(=C1)OCC1CC1 | C12H15NO3
solvent | NaOH | 2 M, 100 ml | [OH-].[Na+]
product | 4-cyclopropylmethoxy-2-hydroxymethylpyridine | 2.7 g | C1(CC1)COC1=CC(=NC=C1)CO | C10H13NO2
